US08669361B2
5-Chloro-1-methyl-4-nitro-1H-pyrazole (0.2 g, 1.24 mmol), 1-methyl-1,2,3,6 tetrahydropyridine-4-boronic acid pinacol ester (0.553 g, 2.48 mmol) and Pd(dppf)2Cl2 (0.02 g, 0.025 mmol) were suspended in degassed MeCN (5 mL). Aqueous Na2CO3/KOAc solution (1:1, 1.1 M, 1.5 mL) was added and the mixture was heated at 130° C. in a microwave for 40 min. A further portion of Pd(dppf)2Cl2 (0.1 g, 0.12 mmol) was added and the mixture was heated at 130° C. for a further 90 min. The solvents were removed under reduced pressure and the crude residue dissolved in EtOAc and water. The mixture was extracted with EtOAc and the combined organic layers passed through a phase separator cartridge. The solvent was removed under reduced pressure and the crude product was purified via silica gel column chromatography (0-10% MeOH/DCM) to give 1-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,2,3,6-tetrahydropyridine as a brown oil (44 mg, 16%). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 5.89-5.86 (m, 1H), 3.82 (s, 3H), 3.19 (q, J=3.0 Hz, 2H), 2.74 (q, J=5.5 Hz, 2H), 2.47-2.39 (m, 5H)

reactant | 5-Chloro-1-methyl-4-nitro-1H-pyrazole | 1.24 mmol, 0.2 g | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 1-methyl-1,2,3,6 tetrahydropyridine-4-boronic acid pinacol ester | 2.48 mmol, 0.553 g | CN1CCC(=CC1)B1OC(C)(C)C(C)(C)O1 | C12H22BNO2
reactant | Na2CO3 KOAc | 1.1 M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+].CC(=O)[O-].[K+]
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | Pd(dppf)2Cl2 | 0.025 mmol, 0.02 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)2Cl2 | 0.12 mmol, 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-methyl-4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1,2,3,6-tetrahydropyridine | 44 mg, 16% | CN1CCC(=CC1)C1=C(C=NN1C)[N+](=O)[O-] | C10H14N4O2
